US09340538B2
Step A: Ethyl 4-(2-chloro-4-fluorophenyl)-6-methyl-2-(pyridin-3-yl)-1,4-dihydropyrimidine-5-carboxylate
Nicotinimidamide hydrochloride (4.97 g, 31.5 mmol) was reacted with 2-chloro-4-fluorobenzaldehyde (5 g, 31.5 mmol) and ethyl 3-oxobutanoate (4.1 g, 31.5 mmol) according to the procedure as described in Example 1, Step A to give the title compound as a yellow solid (5.89 g, 50%). The compound was characterized by the following spectroscopic data:

reactant | Nicotinimidamide hydrochloride | 31.5 mmol, 4.97 g | Cl.C(C1=CN=CC=C1)(N)=N
reactant | 2-chloro-4-fluorobenzaldehyde | 31.5 mmol, 5 g | ClC1=C(C=O)C=CC(=C1)F | C7H4ClFO
reactant | ethyl 3-oxobutanoate | 31.5 mmol, 4.1 g | O=C(CC(=O)OCC)C | C6H10O3
product | Ethyl 4-(2-chloro-4-fluorophenyl)-6-methyl-2-(pyridin-3-yl)-1,4-dihydropyrimidine-5-carboxylate | 5.89 g, 50% | ClC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C=1C=NC=CC1 | C19H17ClFN3O2
